US07947689B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2,4-dimethyl-6,7-dihydro-4H-oxazolo[4,5-c]pyridin-5-yl)-methanone
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-methyl-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridin-6-yl)-methanone is reacted with 2,4-dimethyl-4,5,6,7-tetrahydro-oxazolo[4,5-c]pyridine to provide the title compound.

reactant | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-methyl-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridin-6-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)C=CN1)C | C15H14BrN5O
reactant | 2,4-dimethyl-4,5,6,7-tetrahydro-oxazolo[4,5-c]pyridine | CC=1OC2=C(C(NCC2)C)N1 | C8H12N2O
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2,4-dimethyl-6,7-dihydro-4H-oxazolo[4,5-c]pyridin-5-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)OC(=N1)C)C | C15H14BrN5O2
